US06326381B1
(R)-1-Methyl-cyclohexanecarboxylic Acid {1-benzyl-2-[4-(2-methoxy-phenyl)-piperidin-1-yl]-ethyl}-amide
To a solution of Boc-D-phenylalanine (2.0 g, 7.54 mmol), DEAC (1.45 g, 7.54 mmol), and HOBT (1.53 g, 11.3 mmol) in DMF (20 mL) at 0° C. was added 4-(2-methoxyphenyl)piperidine (1.88 g, 8.29 mmol) followed by the addition of NMO (1.4 mL, 12.8 mmol). The mixture was allowed to stir under nitrogen overnight at ambient temperature, diluted with ethyl acetate (50 mL) and washed with 0.1N HCl (20 mL), saturated NaHCO3 (20 mL), H2O (25 mL) and brine. The organic phase was dried over anhydrous Na2SO4, filtered and concentrated under vacuum to yield the required product (100%). This was stirred in 4.0M HCl/dioxane (40 mL) overnight and concentrated to afford the hydrochloride salt of the free amine. The amide was dissolved in THF (30 mL) and reduced by the addition of 1.0M LAH/THF (23 mL) at 0° C. After stirring overnight, the reaction was quenched by the addition of saturated NH4Cl, filtered through celite, dried over anhydrous Na2SO4, filtered and concentrated to yield the required product. 1-Methylcyclohexanecarboxylicacid chloride was added to a solution of the amine (1.22 g, 3.76 mmol) and triethylamine (1.1 mL, 7.5 mmol) in dichloromethane (20 mL) at 0° C. The reaction mixture was allowed to stir under nitrogen overnight at ambient temperature, concentrated under vacuum, diluted with ethyl acetate (50 mL) and washed with H2O (2×25 mL) then brine, The organic phase was dried over anhydrous Na2SO4, filtered and concentrated under vacuum to yield crude product. Purification by flash chromatography (elution with ethyl acetate/hexanes) yielded 1.1 g of the titled free base. The fumarate salt was prepared and crystallized yielding 0.81 g of the title compound as a pale yellow solid, m.p. 77-79° C. [α]25/D=−10.37° (MeOH, 10.0 mg/mL)

reactant | Boc-D-phenylalanine | 7.54 mmol, 2.0 g | C(=O)(OC(C)(C)C)N[C@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | DEAC | 7.54 mmol, 1.45 g | CC[Al](CC)Cl
reactant | HOBT | 11.3 mmol, 1.53 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-(2-methoxyphenyl)piperidine | 8.29 mmol, 1.88 g | COC1=C(C=CC=C1)C1CCNCC1 | C12H17NO
reactant | NMO | 12.8 mmol, 1.4 mL | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (R)-1-Methyl-cyclohexanecarboxylic Acid {1-benzyl-2-[4-(2-methoxy-phenyl)-piperidin-1-yl]-ethyl}-amide | 100% | C(C1=CC=CC=C1)[C@H](CN1CCC(CC1)C1=C(C=CC=C1)OC)NC(=O)C1(CCCCC1)C | C29H40N2O2
